US04851540
A solution of 8.98 g (36.8 mmol) of 1-[(R)-(1-phenylethyl)]-1H-furo[3,4-d]imidazol-2,4(3H,6H)-dione in 90 ml of dimethylformamide was placed in a 250-ml autoclave and 0.90 g of Rh/Al2O3 (5 percent) is added. Then the autoclave was flushed twice successively with hydrogen, and filled to 40 bars. The mixture was stirred for 10 hours. Then the catalyst was filtered off. The solvent was evaporated at 13.3 mbar and the residue was crystallized with 10 ml of ethyl acetate. (3aS,6aR)-1[(R)-(1-phenylethyl)]-dihydro-1H-furo[3,4-d]imidazol-2,4(3H,3aH)-dione was obtained as a white crystalline product in a yield of 4.89 g=54 percent. Concerning the product: Melting point: 153°-154° C.

reactant | 1-[(R)-(1-phenylethyl)]-1H-furo[3,4-d]imidazol-2,4(3H,6H)-dione | 36.8 mmol, 8.98 g | C1(=CC=CC=C1)[C@@H](C)N1C(NC2=C1COC2=O)=O | C13H12N2O3
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
catalyst | Rh/Al2O3 | 0.90 g | [Rh] | Rh
product | (3aS,6aR)-1[(R)-(1-phenylethyl)]-dihydro-1H-furo[3,4-d]imidazol-2,4(3H,3aH)-dione | C1(=CC=CC=C1)[C@@H](C)N1C(N[C@H]2[C@@H]1COC2=O)=O | C13H14N2O3
